### PR TITLE
[Merged by Bors] - feat(RingTheory/Ideal): the height of an ideal 

### PR DESCRIPTION
**Pull request by xyzw12345**
In this PR, we ported a part of Andrew Yang's lean3 repository at [this repository](https://github.com/erdOne/lean-AG-morphisms), which is appoved by @erdOne after his discussion with @chrisflav . 

Andrew defined `Ideal.primeHeight` and `Ideal.height` in this repository (it's at /dimension_theory/height), we ported this, changed the definition of `Ideal.primeHeight` to  `Order.height (⟨I, hI⟩ : PrimeSpectrum R)` and ported some basic lemmas about it.

Co-authored-by: 
@erdOne 
@Xuchun-Li <li.xuchun@qq.com>
@jjdishere <emailboxofjjd@163.com>
@Blackfeather007 <2100017455@stu.pku.edu.cn>

---

[Open in Gitpod](https://gitpod.io/from-referrer/)

### CODE REVIEW

File: Mathlib/RingTheory/Ideal/Height.lean [hunk 1]
```diff
@@ -0,0 +1,120 @@
...
+  · intro h
+    exact False.elim (h.1.1.ne_top (top_le_iff.mp h.1.2))
+  · intro h
+    exact False.elim (Set.not_mem_empty p h)
+
+theorem Ideal.minimalPrimes_eq_empty_iff (I : Ideal R) :
+    I.minimalPrimes = ∅ ↔ I = ⊤ := by
+  constructor
+  · intro e
+    by_contra h
```
Comment (chrisflav) [inline Mathlib/RingTheory/Ideal/Height.lean:91]: These two should go into `Mathlib.RingTheory.Ideal.MinimialPrime`

File: Mathlib/RingTheory/Ideal/Height.lean [hunk 2]
```diff
@@ -0,0 +1,117 @@
...
+
+-/
+
+variable {R : Type*} [CommRing R] (I : Ideal R)
+
+open Ideal
+
+/-- The height of a prime ideal is defined as the supremum of the lengths of strictly decreasing
+chains of prime ideals below it. -/
+noncomputable def Ideal.primeHeight [hI : I.IsPrime] : ENat :=
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Height.lean:30]:
```suggestion
noncomputable def Ideal.primeHeight [hI : I.IsPrime] : ℕ∞ :=
```

File: Mathlib/RingTheory/Ideal/Height.lean [hunk 3]
```diff
@@ -0,0 +1,117 @@
...
+  Order.height (⟨I, hI⟩ : PrimeSpectrum R)
+
+/-- The height of an ideal is defined as the infimum of the heights of minimal prime ideals
+containing it. -/
+noncomputable def Ideal.height : ENat :=
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Height.lean:35]:
```suggestion
noncomputable def Ideal.height : ℕ∞ :=
```

File: Mathlib/RingTheory/Ideal/Height.lean [hunk 4]
```diff
@@ -0,0 +1,117 @@
...
+  ⨅ J ∈ I.minimalPrimes, @Ideal.primeHeight _ _ J (minimalPrimes_isPrime ‹_›)
+
+/-- For a prime ideal, its height equals its prime height. -/
+lemma Ideal.height_eq_primeHeight [I.IsPrime] : I.height = I.primeHeight := by
+  unfold height primeHeight
+  simp_rw [Ideal.minimalPrimes_eq_subsingleton_self]
+  simp
+
+/-- An ideal has finite height if it is either the top ideal or its height is not top. -/
+class Ideal.FiniteHeight : Prop where
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Height.lean:45]:
```suggestion
/-- An ideal has finite height if it is either the unit ideal or its height is finite.
We include the unit ideal in order to have the instance `IsNoetherianRing R → FiniteHeight I`. -/
class Ideal.FiniteHeight : Prop where
```

File: Mathlib/RingTheory/KrullDimension/Basic.lean [hunk 5]
```diff
@@ -21,7 +21,7 @@ open Order
 /--
 The ring theoretic Krull dimension is the Krull dimension of its spectrum ordered by inclusion.
 -/
-noncomputable def ringKrullDim (R : Type*) [CommRing R] : WithBot (WithTop ℕ) :=
+noncomputable def ringKrullDim (R : Type*) [CommRing R] : WithBot ENat :=
```
Comment (erdOne) [inline Mathlib/RingTheory/KrullDimension/Basic.lean:24]:
```suggestion
noncomputable def ringKrullDim (R : Type*) [CommRing R] : WithBot ℕ∞ :=
```

**Comment by erdOne** [comment]
Thanks for doing this!

File: Mathlib/RingTheory/Ideal/Height.lean [hunk 6]
```diff
@@ -0,0 +1,118 @@
...
+  simp_rw [Ideal.minimalPrimes_eq_subsingleton_self]
+  simp
+
+/-- An ideal has finite height if it is either the unit ideal or its height is finite.
+We include the unit ideal in order to have the instance `IsNoetherianRing R → FiniteHeight I`. -/
+class Ideal.FiniteHeight : Prop where
+  eq_top_or_height_ne_top : I = ⊤ ∨ I.height ≠ ⊤
+
+lemma Ideal.finiteHeight_iff_lt {I : Ideal R} :
+  Ideal.FiniteHeight I ↔ I = ⊤ ∨ I.height < ⊤ := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Height.lean:50]:
```suggestion
    Ideal.FiniteHeight I ↔ I = ⊤ ∨ I.height < ⊤ := by
```
The statement should be indented by 4 spaces. Same below.

File: Mathlib/RingTheory/Ideal/Height.lean [hunk 7]
```diff
@@ -0,0 +1,118 @@
...
+
+In this file, we defined the height of a prime ideal and the height of an ideal.
+
+# Main definitions
+
+* `Ideal.primeHeight` : The height of a prime ideal $\mathfrak{p}$. We defined it as the length of
+the maximum chain of prime ideals whose maximal element is $\mathfrak{p}$ minus 1.
+
+* `Ideal.height` : The height of an ideal. We defined it as the infimum of the primeHeight of the
+minimal prime ideals containing I.
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Height.lean:20]:
```suggestion
* `Ideal.height` : The height of an ideal. We defined it as the infimum of the `primeHeight` of the
minimal prime ideals of I.
```
Or maybe "over". To me, "minimal prime ideals containing I" sounds like minimal prime ideals of `R` (over `0`) containing `I`.

File: Mathlib/RingTheory/Ideal/Height.lean [hunk 8]
```diff
@@ -0,0 +1,118 @@
...
+
+lemma Ideal.primeHeight_strict_mono {I J : Ideal R} [I.IsPrime] [J.IsPrime]
+  (h : I < J) [I.FiniteHeight] :
+  I.primeHeight < J.primeHeight := by
+  unfold primeHeight
+  gcongr
+  · exact I.primeHeight_ne_top.lt_top
+  · exact h
+
+theorem Ideal.height_top : (⊤ : Ideal R).height = ⊤ := by
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Height.lean:99]:
```suggestion
@[simp]
theorem Ideal.height_top : (⊤ : Ideal R).height = ⊤ := by
```

File: Mathlib/RingTheory/Ideal/Height.lean [hunk 9]
```diff
@@ -0,0 +1,118 @@
+/-
+Copyright (c) 2025 Andrew Yang. All rights reserved.
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Jiedong Jiang, Jingting Wang, Andrew Yang
+-/
+import Mathlib.Order.KrullDimension
+import Mathlib.RingTheory.Ideal.MinimalPrime
+import Mathlib.RingTheory.PrimeSpectrum
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Height.lean:8]: This file has recently moved. Please merge master and replace this with `Mathlib.RingTheory.Spectrum.Prime.Defs` (or `.Basic`)

**Comment by erdOne** [comment]
By the way, after all comments are addressed on a PR and you (as the author) are satisfied with it, please remove the `awaiting-author` label so that the PR can reappear on the queue, thanks!
See [here](https://leanprover-community.github.io/contribute/index.html) for more info.

File: Mathlib/RingTheory/Ideal/Height.lean (hunk 6 above)
Comment (erdOne) [reply Mathlib/RingTheory/Ideal/Height.lean]: Just reminding that the statement should be indented 4 spaces, in case my last message was missed.

**Comment by xyzw12345** [comment]
Thanks a lot for the review comments! I think all the conversations have been resolved by now, but if there's anywhere else that I should change on this branch, please feel free to tell me!

File: Mathlib/RingTheory/Ideal/Height.lean [hunk 10]
```diff
@@ -0,0 +1,124 @@
...
+
+open Ideal
+
+/-- The height of a prime ideal is defined as the supremum of the lengths of strictly decreasing
+chains of prime ideals below it. -/
+noncomputable def Ideal.primeHeight [hI : I.IsPrime] : ℕ∞ :=
+  Order.height (⟨I, hI⟩ : PrimeSpectrum R)
+
+/-- The height of an ideal is defined as the infimum of the heights of minimal prime ideals
+containing it. -/
```
Comment (erdOne) [inline Mathlib/RingTheory/Ideal/Height.lean:35]:
```suggestion
of it. -/
```

**Review by erdOne — APPROVED** [review]
LGTM
Thanks a lot!

But the draft was done by me so I don't think I should be maintainer-merging this. Maybe @chrisflav can take a look?

**Comment by erdOne** [comment]
(And when you have addressed all the comments, please remove the `awaiting-author` label so that this PR appears on the queue again)

File: Mathlib/RingTheory/Ideal/Height.lean [hunk 11]
```diff
@@ -0,0 +1,124 @@
...
+    | inl h => exact Or.inl h
+    | inr h => exact Or.inr (ne_top_of_lt h)
+
+lemma Ideal.height_ne_top {I : Ideal R} (hI : I ≠ ⊤) [h : I.FiniteHeight] :
+    I.height ≠ ⊤ :=
+  (h.eq_top_or_height_ne_top).resolve_left hI
+
+lemma Ideal.height_lt_top {I : Ideal R} (hI : I ≠ ⊤) [h : I.FiniteHeight] :
+    I.height < ⊤ := by
+  exact lt_of_le_of_ne le_top (Ideal.height_ne_top hI)
```
Comment (chrisflav) [inline Mathlib/RingTheory/Ideal/Height.lean:69]:
```suggestion
    I.height < ⊤ :=
  lt_of_le_of_ne le_top (Ideal.height_ne_top hI)
```

File: Mathlib/RingTheory/Ideal/Height.lean [hunk 12]
```diff
@@ -0,0 +1,124 @@
...
+Released under Apache 2.0 license as described in the file LICENSE.
+Authors: Jiedong Jiang, Jingting Wang, Andrew Yang
+-/
+import Mathlib.Order.KrullDimension
+import Mathlib.RingTheory.Ideal.MinimalPrime
+import Mathlib.RingTheory.Spectrum.Prime.Basic
+/-!
+# The Height of an Ideal
+
+In this file, we defined the height of a prime ideal and the height of an ideal.
```
Comment (chrisflav) [inline Mathlib/RingTheory/Ideal/Height.lean:12]:
```suggestion
In this file, we define the height of a prime ideal and the height of an ideal.
```
Also below. In general, we write the module docstrings in present tense.

File: Mathlib/RingTheory/Ideal/Height.lean [hunk 13]
```diff
@@ -0,0 +1,124 @@
...
+
+# Main definitions
+
+* `Ideal.primeHeight` : The height of a prime ideal $\mathfrak{p}$. We defined it as the length of
+the maximum chain of prime ideals whose maximal element is $\mathfrak{p}$ minus 1.
```
Comment (chrisflav) [inline Mathlib/RingTheory/Ideal/Height.lean:17]:
```suggestion
* `Ideal.primeHeight` : The height of a prime ideal $\mathfrak{p}$. We define it as the supremum of the lengths of strictly decreasing chains of prime ideals below it.
```
(copied from the docstring of the definition). Maybe also mention that it is implemented via `Order.height`? I think we expect the user to also use the `Order.height` API for this definition.

File: Mathlib/RingTheory/Ideal/Height.lean (hunk 11 above)
Comment (chrisflav) [reply Mathlib/RingTheory/Ideal/Height.lean:69]: Also, I am not sure if we want both `height_ne_top` and `height_lt_top`. What do you think @erdOne ?

File: Mathlib/RingTheory/Ideal/Height.lean [hunk 14]
```diff
@@ -0,0 +1,124 @@
...
+
+open Ideal
+
+/-- The height of a prime ideal is defined as the supremum of the lengths of strictly decreasing
+chains of prime ideals below it. -/
+noncomputable def Ideal.primeHeight [hI : I.IsPrime] : ℕ∞ :=
+  Order.height (⟨I, hI⟩ : PrimeSpectrum R)
+
+/-- The height of an ideal is defined as the infimum of the heights of minimal prime ideals
+of it. -/
```
Comment (chrisflav) [inline Mathlib/RingTheory/Ideal/Height.lean:35]:
```suggestion
/-- The height of an ideal is defined as the infimum of the heights of its minimal prime ideals. -/
```

File: Mathlib/RingTheory/Ideal/Height.lean (hunk 11 above)
Comment (erdOne) [reply Mathlib/RingTheory/Ideal/Height.lean]: We don't need both but IMO there's no harm keeping it.

**Review by chrisflav — APPROVED** [review]
Thanks!

maintainer merge

**Comment by kbuzzard** [comment]
Thanks a lot!

bors merge
